US04824500
A reactor is charged with 600 g of an epoxy resin prepared from dicyclopentadiene and phenol having an average functionality of about 3.2 and an epoxide equivalent weight (EEW) of 265. The resin is heated at 120° C. for 1 hour with 0.43 g of a 70 weight percent methanolic solution of ethyltriphenylphosphonium acetate.acetic acid complex catalyst with a nitrogen sparge. To the resulting mixture is added 200 g of the diglycidyl ether of bisphenol A having an EEW of 179 thereby forming a homogeneous solution having an EEW of 208. The mixture of epoxy resins is reacted catalytically with a stoichiometric equivalent amount (322 g) of glacial methacrylic acid in the presence of air and 400 ppm hydroquinone at 100° C. to 115° C. until a 1.1% acid concentration is reached. The vinyl ester resin is dissolved in 508 g of styrene and 127 g of divinyl benzene to yield a blend containing about 36 percent monomeric diluent by weight. The diluent contained 80% by weight styrene and 20% by weight divinylbenzene.

reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | ethyltriphenylphosphonium acetate | C(C)(=O)[O-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methacrylic acid | 322 g | C(C(=C)C)(=O)O | C4H6O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | styrene | 508 g | C=CC1=CC=CC=C1 | C8H8
product | divinyl benzene | 127 g | C(=C)C1=C(C=CC=C1)C=C | C10H10
